US09428509B2
6-Methoxy-N-methyl-5-nitropicolinamide
The suspension of 6-methoxy-5-nitropicolinic acid (1 equiv), methylamine hydrochloride (2 equiv), sodium bicarbonate (2 equiv), HATU (2 equiv) in DMSO (1 M) was stirred at 25° C. for 15 h. The reaction mixture was quenched with saturated aqueous sodium chloride and then washed with ethyl acetate. The organic phase was combined and washed with saturated aqueous sodium bicarbonate. The organic layer was dried (anhydrous sodium sulfate), filtered, and concentrated. The crude product was purified by silica gel column chromatography (0-90% ethyl acetate (with 1% 1N ammonia in MeOH) in hexane). Concentration of the desired fractions under reduced pressure afforded the title compound (85%) as a yellow solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 2.86 (d, J=4.73 Hz, 3H) 4.17 (s, 3H) 7.77 (dd, J=8.04, 0.79 Hz, 1H) 8.54-8.60 (m, 1H) 8.77 (m, J=4.10 Hz, 1H); MS (ESI) m/z 212.2 [M+1]+.

reactant | 6-methoxy-5-nitropicolinic acid | 1 equiv | COC1=C(C=CC(=N1)C(=O)O)[N+](=O)[O-] | C7H6N2O5
reactant | methylamine hydrochloride | 2 equiv | Cl.CN
reactant | sodium bicarbonate | 2 equiv | C([O-])(O)=O.[Na+]
reactant | HATU | 2 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMSO | 1 M | CS(=O)C | C2H6OS
product | 6-Methoxy-N-methyl-5-nitropicolinamide | 85% | COC1=C(C=CC(=N1)C(=O)NC)[N+](=O)[O-] | C8H9N3O4
